US07943622B2
Step 3. Synthesis of 1-benzyl 4-tert-butyl 2-vinylpiperazine-1,4-dicarboxylate
n-Butyl lithium (2.5M solution in hexane, 4.0 mL, 10 mmol) was added to a suspension of methyltriphenylphosphonium bromide (4.19 g, 11.7 mmol) in THF (100 mL) at −78° C. After 10 min., the reaction mixture was allowed to warm to rt. After 1 h, the reaction mixture was cooled to −78° C., and a solution of 1-benzyl 4-tert-butyl 2-formylpiperazine-1,4-dicarboxylate (3.07 g, 8.81 mmol) in THF (10 mL) was added dropwise. After 2 h, the reaction mixture was allowed to warm to rt and was quenched with NH4Cl (saturated, aqueous solution). The reaction mixture was diluted with water (100 mL) and was extracted with EtOAc (3×150 mL). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification by column chromatography (0 to 20% EtOAc in Hexane gradient) gave 2.33 g (76%) of the desired product as a thick oil. Rf=0.35 in 30% EtOAc/Hexane. LC-MS: RT=10.1 min., [M+H]+=369.1.

reactant | n-Butyl lithium | 10 mmol, 2.5M, 4.0 mL | C(CCC)[Li]
reactant | 1-benzyl 4-tert-butyl 2-formylpiperazine-1,4-dicarboxylate | 8.81 mmol, 3.07 g | C(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
catalyst | methyltriphenylphosphonium bromide | 11.7 mmol, 4.19 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-benzyl 4-tert-butyl 2-vinylpiperazine-1,4-dicarboxylate | 2.33 g, 76% | C(=C)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N2O4
